US07704989B2
A solution of 90 mg of 6-(1-ethoxyvinyl)-N-phenylimidazo[1,2-a]pyridine-2-carboxamide in 2 ml of dichloromethane is stirred at 20° C. for 18 hours with 1 ml of 2N hydrochloric acid. The solid is filtered off, washed with dichloromethane and then with diisopropyl ether, and dried to give 67 mg of 6-acetyl-N-phenylimidazo[1,2-a]pyridine-2-carboxamide hydrochloride (1:1) in the form of a white solid.

reactant | 6-(1-ethoxyvinyl)-N-phenylimidazo[1,2-a]pyridine-2-carboxamide | 90 mg | C(C)OC(=C)C=1C=CC=2N(C1)C=C(N2)C(=O)NC2=CC=CC=C2 | C18H17N3O2
reactant | hydrochloric acid | 2N, 1 ml | Cl | ClH
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | 6-acetyl-N-phenylimidazo[1,2-a]pyridine-2-carboxamide hydrochloride | 67 mg | Cl.C(C)(=O)C=1C=CC=2N(C1)C=C(N2)C(=O)NC2=CC=CC=C2 | InChI=1S/C16H13N3O2.ClH/c1-11(20)12-7-8-15-18-14(10-19(15)9-12)16(21)17-13-5-3-2-4-6-13;/h2-10H,1H3,(H,17,21);1H
